US05254565
To a solution of 6-(N,N-dimethylcarbamoylthio)-3-nitro-4-phenylquinoline (2.50 g) in dioxane (100 ml) were added 2N-NaOH (50 ml) and methanol (20 ml), and the whole was stirred for 7 hrs. at room temperature. After diluted with water, the mixture was acidified with hydrochloric acid. The precipitating crystals were collected by filtration and recrystallized from acetone to give 6-mercapto-3-nitro-4-phenylquinoline as yellow needles. Yield 1.68 g (84.0%). m.p. 160°-163° C.

reactant | 6-(N,N-dimethylcarbamoylthio)-3-nitro-4-phenylquinoline | 2.50 g | CN(C(=O)SC=1C=C2C(=C(C=NC2=CC1)[N+](=O)[O-])C1=CC=CC=C1)C | C18H15N3O3S
reactant | NaOH | 50 ml | [OH-].[Na+]
reactant | methanol | 20 ml | CO | CH4O
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 6-mercapto-3-nitro-4-phenylquinoline | SC=1C=C2C(=C(C=NC2=CC1)[N+](=O)[O-])C1=CC=CC=C1 | C15H10N2O2S
